US09085534B2
Preparation 10A: methyl 1-[(4-chlorobenzyl)amino]pyridine-4-carboxylate
The title compound was prepared in 72% yield from 4-chlorobenzylamine and methyl 3-bromoisonicotinate according to the procedure for Preparation 4A. 1H NMR (400 MHz, CDCl3): δ 8.14 (s, 1H), 7.94 (d, 1H, J=5.0 Hz), 7.82 (br s, 1H), 7.62 (d, 1H, J=5.0 Hz), 7.24-7.32 (m, 4H), 4.47 (d, 2H, J=5.7 Hz), 3.89 (s, 3H). [M+H] calc'd for C14H13ClN2O2, 277, 279; found 277, 279.

reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | methyl 3-bromoisonicotinate | BrC1=C(C(=O)OC)C=CN=C1 | C7H6BrNO2
product | methyl 1-[(4-chlorobenzyl)amino]pyridine-4-carboxylate | 72% yield | ClC1=CC=C(CNN2CC=C(C=C2)C(=O)OC)C=C1 | C14H15ClN2O2
